US08247429B2
ethyl 9-{2-[(tert-butoxycarbonyl)amino]ethyl}-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
To a solution of ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (100 mg, 0.348 mmol) in tetrahydrofuran (3.5 mL) was added di-t-butyl dicarbonate (95.9 μL, 0.417 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→30/70) to give the title compound (135 mg, yield 100%).

reactant | ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.348 mmol, 100 mg | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C16H21N3O2
reactant | di-t-butyl dicarbonate | 0.417 mmol, 95.9 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | ethyl 9-{2-[(tert-butoxycarbonyl)amino]ethyl}-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 135 mg, yield 100% | C(C)(C)(C)OC(=O)NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C21H29N3O4
